### PR TITLE
[Merged by Bors] - feat: a cofinal set has a cofinal subset of order type `(cof α).ord`

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 1]
```diff
@@ -169,6 +169,10 @@ theorem _root_.RelIso.ordinal_type_eq {α β} {r : α → α → Prop} {s : β 
     [IsWellOrder β s] (h : r ≃r s) : type r = type s :=
   type_eq.2 ⟨h⟩
 
+theorem _root_.OrderIso.ordinal_type_eq {α β} [LinearOrder α] [LinearOrder β]
+    [WellFoundedLT α] [WellFoundedLT β] (h : α ≃o β) : typeLT α = typeLT β :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Basic.lean]:
```suggestion
theorem _root_.OrderIso.ordinalType_congr {α β} [LinearOrder α] [LinearOrder β]
    [WellFoundedLT α] [WellFoundedLT β] (h : α ≃o β) : typeLT α = typeLT β :=
```

File: Mathlib/SetTheory/Cardinal/Cofinality/Ordinal.lean [hunk 2]
```diff
@@ -166,16 +168,21 @@ theorem ord_cof_eq (α : Type*) [LinearOrder α] [WellFoundedLT α] :
     · obtain ⟨x, z, hz, rfl⟩ := x
       exact (hz _ hxy').asymm hxy
 
+/-- Every cofinal set has a cofinal subset of order type `(cof α).ord`. -/
+theorem ord_cof_eq_of_isCofinal [LinearOrder α] [WellFoundedLT α] {s : Set α} (hs : IsCofinal s) :
+    ∃ t ⊆ s, IsCofinal t ∧ typeLT t = (Order.cof α).ord := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Ordinal.lean]:
```suggestion
theorem exists_ord_cof_eq_of_isCofinal [LinearOrder α] [WellFoundedLT α] {s : Set α} (hs : IsCofinal s) :
    ∃ t ⊆ s, IsCofinal t ∧ typeLT t = (Order.cof α).ord := by
```
surely? Otherwise it reads like a rewriting lemma

Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Cofinality/Ordinal.lean]: This file also houses theorems such as `cof_eq` and `ord_cof_eq`, presumably those need to be renamed too?

Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/Cofinality/Ordinal.lean]: Yes please!

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
